US08735362B2
Step B: Preparation of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(2-oxo-[1,2,3]oxathiazolidin-5-ylmethyl)-benzamide
A solution of N-(3-amino-2-hydroxy-propyl)-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzamide (0.2 g) in dichloromethane (10 ml) was cooled to 0° C., treated with pyridine (0.32 ml) and thionyl chloride (0.06 ml), and stirred for 4 hours. The mixture was diluted with dichloromethane (50 ml), neutralized with 2N hydrochloric acid, and washed with water (50 ml). The organic layer was separated, dried over sodium sulfate and concentrated. Purification by chromatography on silica gel (eluent hexane/ethyl acetate 40:60) gave the title compound (20 mg). LCMS (Method G) 3.88 min, (M−H)− 534. 1HNMR (CDCl3, 400 MHz): 7.45-7.52 (m, 6H), 6.50 (m, 1H), 4.05 (d, 1H), 3.98 (m, 1H), 3.72 (d, 1H), 3.62 (m, 1H), 3.51 (m, 3H), 2.46 (s, 3H).

reactant | N-(3-amino-2-hydroxy-propyl)-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzamide | 0.2 g | NCC(CNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)O | C21H20Cl2F3N3O3
reactant | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.06 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(2-oxo-[1,2,3]oxathiazolidin-5-ylmethyl)-benzamide | 20 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC2CNS(O2)=O)C=C1)C)C(F)(F)F | C21H18Cl2F3N3O4S
